US08106221B2
Step 6. tert-butyl 3-(2-azidoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate
2-(3-(tert-Butoxycarbonyl(methyl)amino)-1-(5-chloro-2-methylphenyl)propoxy)ethyl methanesulfonate (414 mg, 0.95 mmol) was dissolved into anhydrous DMF (15 mL), solid NaN3 (186 mg, 2.86 mmol) was added and the reaction mixture was heated to 80° C. overnight. The reaction mixture was cooled to room temperature and diluted with ethyl acetate, the organic phase was washed with water and brine, dried over Na2SO4 and concentrated in vacuo to the crude product (270 mg, 74%), which was used for next step without purification.

reactant | 2-(3-(tert-Butoxycarbonyl(methyl)amino)-1-(5-chloro-2-methylphenyl)propoxy)ethyl methanesulfonate | 0.95 mmol, 414 mg | CS(=O)(=O)OCCOC(CCN(C)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)Cl)C | C19H30ClNO6S
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | NaN3 | 2.86 mmol, 186 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(2-azidoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate | N(=[N+]=[N-])CCOC(CCN(C(OC(C)(C)C)=O)C)C1=C(C=CC(=C1)Cl)C | C18H27ClN4O3
